US05728835
N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-formyl-N-(2-methoxyphenyl)benzene sulfonamide
Activated manganese dioxide (870 mg, 10.0 mmol) was suspended in methylene chloride (10 ml), and N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-hydroxymethyl-N-(2-methoxyphenyl)benzene sulfonamide (259 mg, 0.492 mmol) dissolved in methylene chloride (3 ml) was added to the suspension. After 30 minutes of stirring at room temperature, the reaction mixture was filtered through silica gel (1 g) which was further subjected to elution with ethyl acetate. Thereafter, the filtrate and eluate were combined, and the solvent was removed by evaporation to obtain 211 mg (81.7%) of the title compound in a colorless amorphous form.

reactant | N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-hydroxymethyl-N-(2-methoxyphenyl)benzene sulfonamide | 0.492 mmol, 259 mg | FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CC=C(C=C2)CO)C2=C(C=CC=C2)OC)C=C1 | C28H31FN2O5S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 10.0 mmol, 870 mg | [O-2].[O-2].[Mn+4]
product | N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-formyl-N-(2-methoxyphenyl)benzene sulfonamide | 211 mg, 81.7% | FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CC=C(C=C2)C=O)C2=C(C=CC=C2)OC)C=C1 | C28H29FN2O5S
